US05426187
To a solution of 20.0 g (85.4 mmol) of 2-(2,2-dimethylpropionyl)amino-4-hydroxypyrrolo[2,3-d]pyrimidine in 160 mL of dry DMF stirred in a dry atmosphere was added 38.2 g (187.8 mmol) of BSA and the mixture was heated to 40° C. for 3 hours. After cooling to about 0° C. in an ice bath there was added 23.1 g (102.5 mmol) of N-iodosuccinimide as a solid. The mixture was stirred at 0° C. for 15 minutes, then allowed to warm to ambient temperature overnight. To the resulting mixture, maintained under a nitrogen atmosphere, was added sequentially 12.6 g (128 mmol) of (trimethylsilyl) acetylene, 17.3 g (171 mmol) of triethylamine, 3.25 g (17.1 mmol) of cuprous iodide, and a preformed mixture prepared by adding 1.51 g (8.5 mmol) of palladium (II) chloride and 4.48 g (17.1 mmol) of triphenylphosphine to 40 mL of DMF. The resulting solution was stirred at ambient temperature for 2 hours. At this point, HPLC analysis of an aliquot indicated complete conversion of the in situ-derived N-(4-hydroxy-5-iodo-7H-pyrrolo[2,3-d]pyrimidin-2-yl)-2,2-dimethylpropionamide. The reaction mixture was poured into 500 mL of acetonitrile and 12 mL of water was added, causing the product to precipitate. After stirring for about 15 minutes, the product was filtered, washed with acetonitrile, and dried, affording 18.6 g (66%) of N-[4-hydroxy-5-(trimethylsilyl) ethynyl-7H-pyrrolo [2,3-d]pyrimidin-2-yl]-2,2-dimethyl propionamide as a light tan solid, mp>300° C. NMR δ0.18 (s, 9H), 1.22 (s, 9H), 7.33 (s, 1H), 10.9 (br s, 1H), 11.8 (br s, 1H), 11.9 (br s, 1H); IR (KBr) 3229, 2155, 1678, 1658, 1619, 1434, 1244, 1180, 1069 cm-1 ; UV (EtOH) 285 nm (ε15,400 ), 250 nm (ε16,000). Anal. Calcd for C16H22N4O2Si: C, 58.15; H, 6.71; N, 16.95. Found: C, 57.58; H, 6.87; N,16.96.

reactant | 2-(2,2-dimethylpropionyl)amino-4-hydroxypyrrolo[2,3-d]pyrimidine | 85.4 mmol, 20.0 g | CC(C(=O)NC1=NC(=C2C(N1)=NC=C2)O)(C)C | C11H14N4O2
reactant | N-iodosuccinimide | 102.5 mmol, 23.1 g | IN1C(CCC1=O)=O | C4H4INO2
reactant | (trimethylsilyl) acetylene | 128 mmol, 12.6 g | C[Si](C)(C)C#C | C5H10Si
reactant | triethylamine | 171 mmol, 17.3 g | C(C)N(CC)CC | C6H15N
reactant | triphenylphosphine | 17.1 mmol, 4.48 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | DMF | 160 mL | CN(C)C=O | C3H7NO
solvent | N-(4-hydroxy-5-iodo-7H-pyrrolo[2,3-d]pyrimidin-2-yl)-2,2-dimethylpropionamide | OC=1C2=C(N=C(N1)NC(C(C)(C)C)=O)NC=C2I | C11H13IN4O2
catalyst | palladium (II) chloride | 8.5 mmol, 1.51 g | [Pd](Cl)Cl
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
solvent | water | 12 mL | O | H2O
solvent | acetonitrile | 500 mL | C(C)#N | C2H3N
product | N-[4-hydroxy-5-(trimethylsilyl) ethynyl-7H-pyrrolo [2,3-d]pyrimidin-2-yl]-2,2-dimethyl propionamide | 18.6 g, 66% | OC=1C2=C(N=C(N1)NC(C(C)(C)C)=O)NC=C2C#C[Si](C)(C)C | C16H22N4O2Si
